US07462611B2
a) N-Benzothiazol-6-yl-methanesulfonamide
Methanesulfonyl chloride (4.93 mL, 63.7 mmol) was added over 5 min to a solution of benzothiazol-6-ylamine (9.58 g, 63.8 mmol) in pyridine (100 mL) at 25° C. The resulting mixture was stirred at 25° C. for 30 min, and then was concentrated in vacuo. The residue was partitioned between 1.0 M aqueous hydrochloric acid solution (150 mL) and ethyl acetate (2×150 mL). The organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Trituration of the residue with diethyl ether afforded a solid that was collected by vacuum filtration and dried in vacuo to afford the desired product, N-benzothiazol-6-yl-methanesulfonamide (13.3 g, 58.3 mmol, 91% yield) as a pink solid. 1HNMR (400 MHz, DMSO-d6) δ: 3.03 (3H, s), 7.36 (1H, dd, J1=2.3 Hz, J2=8.6 Hz), 7.94 (1H, d, J=1.6 Hz), 8.02 (1H, d, J=9.2 Hz), 9.27 (1H, s), 9.95 (1H, s).

reactant | Methanesulfonyl chloride | 63.7 mmol, 4.93 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzothiazol-6-ylamine | 63.8 mmol, 9.58 g | S1C=NC2=C1C=C(C=C2)N | C7H6N2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-benzothiazol-6-yl-methanesulfonamide | 58.3 mmol, 13.3 g, 91% yield | S1C=NC2=C1C=C(C=C2)NS(=O)(=O)C | C8H8N2O2S2
